US05580946
1,3-phenylene diisocyanate;
methylene-bis(4-phenylisocyanate); 2,6-diisocyanatobenzylfuran; bis(2-isocyanato-ethyl)fumarate; bis(2-isocyanato-ethyl)carbonate;

reactant | 2,6-diisocyanatobenzylfuran | N(=C=O)C1=C(CC=2OC=CC2)C(=CC=C1)N=C=O | C13H8N2O3
reactant | bis(2-isocyanato-ethyl)fumarate | N(=C=O)CC\C(=C(/C(=O)[O-])\CCN=C=O)\C(=O)[O-]
reactant | bis(2-isocyanato-ethyl)carbonate | N(=C=O)CCOC(OCCN=C=O)=O | C7H8N2O5
product | 1,3-phenylene diisocyanate | C1(=CC(=CC=C1)N=C=O)N=C=O | C8H4N2O2
